US07091353B2
N-[2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-3-fluoro-benzamide I-55
To a suspension of 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione (0.55 g, 2 mmol) in THF (30 ml) was added 3-Fluorobenzoyl chloride (0.49 ml, 4 mmol). The mixture was heated to reflux for 18 hours. The reaction was cooled to room temperature, methanol (2 ml) was added, and the mixture stirred for 1 hour. The solvent was evaporated in vacuo leaving a solid which was slurried in diethyl ether (20 ml) and filtered to give 0.69 g (96%) of product as an off-white solid: mp 260–262° C.; 1H NMR (DMSO-d6) d 11.00 (s, 1H), 10.39 (s, 1H), 8.53 (d, J=8.3 Hz, 1H), 7.94–7.50 (m, 6H), 5.15 (dd, J=5.6 and 12.7 Hz, 1H), 2.97–2.83 (m, 1H), 2.66–2.49 (m, 2H), 2.14–2.06 (m, 1H); 13C NMR (DMSO-d6) d 172.36, 169.36, 167.66, 166.39, 163.62, 136.03, 131.31, 131.12, 130.99, 126.60, 123.19, 123.15, 119.44, 119.11, 118.89, 118.42, 114.31, 113.94, 48.91, 30.77, 21.83; Anal. Calcd. For C20H14FN3O5: C, 60.76; H, 3.57; N, 10.63. Found: C, 60.88; H, 3.38; N, 10.51.

reactant | 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione | 2 mmol, 0.55 g | NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C13H11N3O4
reactant | 3-Fluorobenzoyl chloride | 4 mmol, 0.49 ml | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
reactant | methanol | 2 ml | CO | CH4O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | N-[2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-3-fluoro-benzamide | 0.69 g, 96% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NC(C1=CC(=CC=C1)F)=O)=O)=O | C20H14FN3O5
